US07396844B1
Synthesis of 1-t-butoxycarbonyl-(2R)-2-[(3-cyanophenoxy)methyl]pyrrolidine
430 mg (2 mmol) of 1-t-butoxycarbonyl-(2R)-2-chloromethyl pyrrolidine was dissolved in 5 ml of dimethylamide, and 238 mg (2 mmol) of 3-hydroxy benzonitrile, 500 mg (3 mmol) of potassium iodide, and 414 mg (3 mmol) of potassium carbonate were added thereto and stirred at 90° C. for 3 days. The reaction mixture was treated in an ordinary manner with ethyl acetate as the extractant, and the resulting residue was purified by silica gel column chromatography to obtain the title compound.

reactant | 1-t-butoxycarbonyl-(2R)-2-chloromethyl pyrrolidine | 2 mmol, 430 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CCl | C10H18ClNO2
reactant | 3-hydroxy benzonitrile | 2 mmol, 238 mg | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | potassium iodide | 3 mmol, 500 mg | [I-].[K+]
reactant | potassium carbonate | 3 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylamide | 5 ml | C[N-]C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-t-butoxycarbonyl-(2R)-2-[(3-cyanophenoxy)methyl]pyrrolidine | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC(=CC=C1)C#N | C17H22N2O3
